US05113009
The same esterification procedure as in Example 1 was followed with the exception that the L-phenylalanine was replaced with 133.1 g of L-aspartic acid and that 133.1 g of methanol and 64 g of hydrochloric acid were used. Following cooling to deposit the crystals, the latter were collected by filtration and then dried to obtain 160.5 g (78.4 yield) of L-aspartic acid dimethyl ester hydrochloride having a purity of 96.5% and containing 0.2% of water and 2.6% of the total of L-aspartic acid and α- and β-monomethyl esters of L-aspartic acid.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-aspartic acid | 133.1 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | hydrochloric acid | 64 g | Cl | ClH
reactant | methanol | 133.1 g | CO | CH4O
product | L-aspartic acid dimethyl ester hydrochloride | 160.5 g | Cl.COC([C@@H](N)CC(=O)OC)=O | InChI=1S/C6H11NO4.ClH/c1-10-5(8)3-4(7)6(9)11-2;/h4H,3,7H2,1-2H3;1H/t4-;/m0./s1
